US05753679
0.5 g (0.00212 mol) of 1-(3-nitro-benzyl)-piperidin-4-ol and 0.595 ml (0.00424 mol) of triethylamine were dissolved in 15 ml of toluene, treated with 0.295 ml (0.00254 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.416 g (58%) of 1-(3-nitro-benzyl)-piperidin-4-yl benzoate was obtained as yellow crystals; m.p. 54°-55°.

reactant | 1-(3-nitro-benzyl)-piperidin-4-ol | 0.00212 mol, 0.5 g | [N+](=O)([O-])C=1C=C(CN2CCC(CC2)O)C=CC1 | C12H16N2O3
reactant | triethylamine | 0.00424 mol, 0.595 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.00254 mol, 0.295 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-nitro-benzyl)-piperidin-4-yl benzoate | 0.416 g, 58% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-] | C19H20N2O4
